US04228100
Reaction of tetrakis(hydroxymethyl)phosphonium iodide (7.05 g, 0.025 mol) with 1,3-dimethylurea (8.81 g, 0.1 mol) in toluene (25 ml), following Example 1, gave 13.65 g (97.1%) of tetrakis(1,3-dimethylureidomethyl)phosphonium iodide (I, R=R'=CH3, R"=H, X=I) as a white, crystalline solid, mp 194° C. dec after two recrystallizations from ethanol (10 ml/g). The product suffered no weight loss when dried under vacuum for 2 hr at 100° C.

reactant | tetrakis(hydroxymethyl)phosphonium iodide | 0.025 mol, 7.05 g | [I-].OC[P+](CO)(CO)CO
reactant | 1,3-dimethylurea | 0.1 mol, 8.81 g | CNC(=O)NC | C3H8N2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | tetrakis(1,3-dimethylureidomethyl)phosphonium iodide | 13.65 g, 97.1% | [I-].CN(C(=O)NC)C[P+](CN(C(=O)NC)C)(CN(C(=O)NC)C)CN(C(=O)NC)C | InChI=1S/C16H35N8O4P.HI/c1-17-13(25)21(5)9-29(10-22(6)14(26)18-2,11-23(7)15(27)19-3)12-24(8)16(28)20-4;/h9-12H2,1-8H3,(H3-,17,18,19,20,25,26,27,28);1H
